US04652582
1-tert-Butyloxycarbonyl-2-bromo-4-(4-fluorophenyl)-5-(4-methylsulfonylphenyl)pyrrole
A suspension of 1-tert-butyloxycarbonyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole (13.5 g, 0.032 mole) in 100 ml N,N'-dimethylformamide was treated with a solution of N-bromosuccinimide (5.7 g, 0.032 mole) in 50 ml N,N'-dimethylformamide. The mixture was stirred for four hours at room temperature and poured into a mixture of 500 ml 5% sodium bicarbonate and 500 g of ice. The resulting solid was collected by filtration, washed with water, and dried. The crude product was recrystallized from diethyl ether/hexanes to yield 11.0 g (68%); m.p. 121° dec.

reactant | 1-tert-butyloxycarbonyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole | 0.032 mole, 13.5 g | C(C)(C)(C)OC(=O)N1C(=C(C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C22H22FNO4S
reactant | N-bromosuccinimide | 0.032 mole, 5.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
solvent | N,N'-dimethylformamide | 50 ml | CN(C)C=O | C3H7NO
product | 1-tert-Butyloxycarbonyl-2-bromo-4-(4-fluorophenyl)-5-(4-methylsulfonylphenyl)pyrrole | C(C)(C)(C)OC(=O)N1C(=CC(=C1C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)Br | C22H21BrFNO4S
